US05563133
Preparation of 5-isopropoxyphenylacetic acid
The title compound is prepared using known methods essentially as described in R. E. Counsel, et al., Journal of Medicinal Chemistry, 16:684-687 (1973) except that the benzyl chloride is replaced with 2-iodopropane. The 5-isopropoxyphenylacetonitrile thus prepared (15 grams) is dissolved in 160 ml of ethanol in the presence of 18 grams of potassium hydroxide. The resulting mixture is then refluxed for about two hours. The reaction mixture is then concentrated in vacuo and the residue is taken up in water and washed with diethyl ether. The aqueous phase is acidified with hydrochloric acid until the pH is 1, and extracted with diethyl ether. The extract is washed with water, dried over sodium sulfate, and filtered. The solvents are removed in vacuo and the residue is purified by chromatography on silica gel using methylene chloride/methanol (100/2 v/v) as the eluent to give the desired title product.

reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 2-iodopropane | IC(C)C | C3H7I
reactant | 5-isopropoxyphenylacetonitrile | C(C)(C)OC=1C=CC=C(C1)CC#N | C11H13NO
reactant | potassium hydroxide | 18 grams | [OH-].[K+]
reactant | ethanol | 160 ml | C(C)O | C2H6O
product | 5-isopropoxyphenylacetic acid | C(C)(C)OC=1C=CC=C(C1)CC(=O)O | C11H14O3
